US06713474B2
Isobutyryl chloride (1.8 g) was added dropwise to a mixture of 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (4.32 g), dry dimethyl-formamide (200 ml) and dry pyridine (2 ml) with stirring under nitrogen at 20° C. The mixture was stirred at ambient temperature for 1 hour and evaporated under vacuum. The residue was partitioned between water and ethyl acetate. The ethyl acetate was separated, dried and evaporated and the residue obtained was recrystallised from toluene to give 7-isobutyryl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine, m.p. 160.5-161° C.

reactant | Isobutyryl chloride | 1.8 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | 5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 4.32 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CNC=2N=CN=C(C21)N | C18H14N4O
reactant | dimethyl-formamide | 200 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 7-isobutyryl-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | C(C(C)C)(=O)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C22H20N4O2
